US07723333B2
2-Isopropyl-5-phenyl-4-[(1-pyridin-2-ylpiperidin-4-yl)amino]isothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 1-pyridin-2-ylpiperidine-4-amine dihydrochloride in a similar manner as described for Example 24 with TEA as base. 1H NMR (500 MHz CDCl3): δ 8.14 (dd, 1H), 7.58-7.53 (m, 2H), 7.48-7.41 (m, 4H), 6.62-6.55 (m, 2H), 5.23 (d, 1H), 4.42 (sept, 1H), 4.10-4.02 (m, 2H), 3.22-3.12 (m, 1H), 2.49-2.41 (m, 2H), 1.80-1.72 (m, 2H), 1.59 (d, 6H), 1.42-1.33 (m, 2H); 13C NMR (125 MHz CDCl3): 159.2, 158.7, 148.1, 137.7, 134.5, 131.9, 130.2, 128.9, 125.3, 113.6, 107.5, 106.9, 50.8, 47.8, 44.1, 32.1, 20.4; Mass Spectrum: M+H+ 427

reactant | 4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 1-pyridin-2-ylpiperidine-4-amine dihydrochloride | Cl.Cl.N1=C(C=CC=C1)N1CCC(CC1)N
product | 2-Isopropyl-5-phenyl-4-[(1-pyridin-2-ylpiperidin-4-yl)amino]isothiazol-3(2H)-one 1,1-dioxide | C(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)C1=NC=CC=C1)C1=CC=CC=C1)(=O)=O | C22H26N4O3S
